US08133994B2
Joseph F. Payach et al., Organic Process Research and Development, 2004, 8, pp. 256-259 describes the preparation of aprepitant by reaction of 3,5-bis-trifluoromethylbenzoic acid-4-benzyl-3(S)-(4-fluorophenyl)morpholin-2-ylester with dimethyltitanocene to give 4-benzyl-2-[1-(3,5-bistrifluoromethylphenyl)-vinyloxy]-3-(4-fluorophenyl) morpholine.

reactant | aprepitant | C[C@H](C=1C=C(C=C(C1)C(F)(F)F)C(F)(F)F)O[C@@H]2[C@@H](N(CCO2)CC3=NNC(=O)N3)C=4C=CC(=CC4)F | C23H21F7N4O3
reactant | 3,5-bis-trifluoromethylbenzoic acid-4-benzyl-3(S)-(4-fluorophenyl)morpholin-2-ylester | C(C1=CC=CC=C1)N1[C@H](C(OCC1)OC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C1=CC=C(C=C1)F | C26H20F7NO3
catalyst | dimethyltitanocene | C[C-]1C=CC=C1.[C-]1(C=CC=C1)C.[Ti+2]
product | 4-benzyl-2-[1-(3,5-bistrifluoromethylphenyl)-vinyloxy]-3-(4-fluorophenyl) morpholine | C(C1=CC=CC=C1)N1C(C(OCC1)OC(=C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=C(C=C1)F | C27H22F7NO2
